US04058550
A solution of 15.0 g of 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate in 700 ml of carbon tetrachloride is stirred under reflux and is treated with anhydrous hydrogen chloride. The mixture is allowed to cool and is filtered to yield 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate hydrochloride as a white solid, mp 126°-130° C.

reactant | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | 15.0 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
reactant | hydrogen chloride | Cl | ClH
solvent | carbon tetrachloride | 700 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | InChI=1S/C26H45NO4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-20-27-24-18-16-23(17-19-24)26(30)31-22-25(29)21-28;/h16-19,25,27-29H,2-15,20-22H2,1H3;1H
